US08008296B2
4-(3-Methanesulfonyl-pyrrolidine-1-sulfonyl)-benzoic acid
The title intermediate is prepared from 4-(chlorosulfonyl)benzoic acid (CAS 10130-89-9) (375 mg, 1.7 mmol) and 3-(methylsulfonyl)pyrrolidine (CAS 433980-62-2) (343 mg, 2.3 mmol) in a manner substantially similar to Procedure F to provide 250 mg (44%) of the title compound. MS (ES−) 332.0 (M−H)−.

reactant | 4-(chlorosulfonyl)benzoic acid | 1.7 mmol, 375 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 3-(methylsulfonyl)pyrrolidine | 2.3 mmol, 343 mg | CS(=O)(=O)C1CNCC1 | C5H11NO2S
product | 4-(3-Methanesulfonyl-pyrrolidine-1-sulfonyl)-benzoic acid | 250 mg, 44% | CS(=O)(=O)C1CN(CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C12H15NO6S2
